US08049016B2
Preparation of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(3-(trifluoromethyl)benzyl)imidazolidin-2-one
Following the procedure as describe in Preparation 16, making variations as required to replace ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate with 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one to react with 3-(trifluoromethyl)benzyl bromide, the title compound was obtained as a yellow solid in 50% yield: mp 149-151° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.70-7.58 (m, 4H), 4.55 (s, 2H), 4.04 (t, J=6.0 Hz, 2H), 3.51 (t, J=6.0 Hz, 2H), 2.51 (s, 3H), 2.45 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ190.9, 160.4, 155.6, 155.1, 138.5, 132.5, 130.4, 129.9 (q, 3JC-F=38 Hz), 126.6, 125.9, 125.1-124.8 (m), 122.9, 47.1, 42.6, 42.4, 30.5, 18.8; MS (ES+) m/z 384.2 (M+1).

reactant | ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NNC1=O | C9H10N4O3S
reactant | 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one | C(C)(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C9H11N3O2S
reactant | 3-(trifluoromethyl)benzyl bromide | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
product | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(3-(trifluoromethyl)benzyl)imidazolidin-2-one | 50% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC(=CC=C1)C(F)(F)F)=O)C | C17H16F3N3O2S
